US09260422B2
4-Trifluoromethanesulfonyloxy-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
Sodium hexamethyldisilazanide (2.3 ml of a 1M solution in THF, 2.26 mmol) was added drop wise to a cold (−78° C.), solution of 4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.5 g, 2.1 mmol) in THF (2 ml) and the mixture was stirred at this temperature for 1 hour. After this time, 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide (0.89 g, 2.47 mmol) was added dropwise and the reaction stirred for a further 30 minutes. After this time the reaction mixture was allowed to warm to room temperature and the mixture was stirred overnight. The mixture was then partitioned between EtOAc (30 ml) and saturated ammonium chloride (10 ml), the organic layer was separated, dried (MgSO4), filtered and concentrated. The resulting residue was purified by flash column chromatography (elution: 20% Ethyl Acetate, 80% heptane) to give the title compound (0.27 g, 36% yield) as a colourless oil. δH (500 MHz, CDCl3) 5.68-5.79 (m, 1H), 4.99-5.10 (m, 1H), 4.24-4.45 (m, 2H), 3.78 (s, 3H), 1.40-1.53 (m, 9H). Tr=3.58 min m/z (ES+) (M+Na+) 398.

reactant | Sodium hexamethyldisilazanide | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | 4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 2.1 mmol, 0.5 g | COC(=O)C1N(CC(C1)=O)C(=O)OC(C)(C)C | C11H17NO5
reactant | 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide | 2.47 mmol, 0.89 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-Trifluoromethanesulfonyloxy-2,3-dihydro-pyrrole-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.27 g, 36% yield | COC(=O)C1N(C=C(C1)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C12H16F3NO7S
